US05958930
2,4-diamino-6-nitropyrido[2,3-d]pyrimidine (FIG. 15a)
About 1 equivalent of 2,4,6-triamino pyrimidine was suspended in about 50 ml of refluxing absolute ethanol with stirring under an atmosphere of nitrogen. Concentrated HCl was added dropwise to effect solution and as soon as solution occurred, about 1.2 equivalents of nitromalonaldehyde was added all at once. Within 10 minutes, a thick reddish voluminous precipitate started forming. TLC analysis indicated the presence of a yellow spot corresponding to that of the desired product along with staring materials. The reaction mixture was stirred at reflux for 3.5 hours, immediately diluted with 30 ml of water, cooled and neutralized with concentrated NH4OH. The precipitate was collected on a funnel and was washed repeatedly with water to remove unreacted triamino pyrimidine to yield pure 2,4-diamino-6-nitropyrido[2,3-d]pyrimidine.

reactant | 2,4,6-triamino pyrimidine | 1 equivalent | NC1=NC(=CC(=N1)N)N | C4H7N5
reactant | HCl | Cl | ClH
reactant | nitromalonaldehyde | about 1.2 equivalents | [N+](=O)([O-])C(C=O)C=O | C3H3NO4
solvent | ethanol | C(C)O | C2H6O
product | 2,4-diamino-6-nitropyrido[2,3-d]pyrimidine | NC=1N=C(C2=C(N1)N=CC(=C2)[N+](=O)[O-])N | C7H6N6O2
